US09193720B2
A mixture of (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate (0.009 g, 0.015 mmol) and LiOH (3.65 mg, 0.152 mmol) in 9:1 EtOH/H2O (1 mL) was refluxed for 3 h. Then, cooled and purified by prep-HPLC to afford (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetic acid (0.0081 g, 0.014 mmol, 94% yield) as white solid. Alternatively, to a solution of (S)-isopropyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate (0.302 g, 0.5 mmol) in ethanol (5 mL) and water (0.500 mL) was added KOH (0.281 g, 5.00 mmol). The solution was heated at 75° C. for 8 h. The solvent in the mixture was evaporated. The remaining residue was treated with water (5 mL), and acidified with 1 N HCl (5.1 mL) to pH˜2. The resulting mixture was stirred for 1 h. The solid was collected on a filter, washed with water, dried under vacuum to give (0.281 g, 100%) as beige solid. 1H NMR (500 MHz, CDCl3) δ 7.27-7.32 (m, 2H), 7.12-7.18 (m, 1H), 7.01-7.09 (m, 3H), 6.95-7.00 (m, 2H), 5.95 (br. s., 1H), 4.16-4.29 (m, 2H), 3.61 (br. s., 1H), 3.13 (t, J=6.9 Hz, 2H), 2.77-3.02 (m, 1H), 2.66 (s, 3H), 2.22 (s, 3H), 1.99-2.37 (m, 2H), 1.25 (s, 9H), 1.07-1.40 (m, 4H), 0.88 (br.s., 3H), 0.68 (br. s., 3H). LCMS (M+H)=563.3.

reactant | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.015 mmol, 0.009 g | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C36H47FN2O4
reactant | LiOH | 0.152 mmol, 3.65 mg | [Li+].[OH-]
solvent | EtOH H2O | 1 mL | CCO.O
product | (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetic acid | 0.014 mmol, 0.0081 g, 94% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C34H43FN2O4
